US08017637B2
0.697 g (4.2 mmol; 1.1 equivalent) of 1,3-benzodioxol-5-yl boronic acid as well as a solution of 1.2 g (11.35 mmol; 3 equivalents) of sodium carbonate in 15 ml of water are added to a suspension of 1.1 g (3.82 mmol) of 2-bromo-6-methoxy-7-nitro-1,3-benzothiazole and 133 mg (0.115 mmol; 0.03 equivalent) of palladium tetrakis-triphenylphosphine in 30 ml of 1,2-dimethoxyethane. The reaction mixture is maintained under stirring at 90° C. for 4 hours, then after concentration under reduced pressure, 100 ml of ethyl acetate is added to the medium which is then washed with twice 75 ml of a solution of water saturated with sodium chloride. The organic phase is dried over sodium sulphate then the solvents are evaporated off under reduced pressure and the residue is purified by chromatography on a silica column (eluent: ethyl acetate/heptane mixture 1:2). 0.960 g (yield of 76%) of 2-(1,3-benzodioxol-5-yl)-6-methoxy-7-nitro-1,3-benzothiazole is obtained in the form of beige powder.

reactant | 1,3-benzodioxol-5-yl boronic acid | 4.2 mmol, 0.697 g, 1.1 equivalent | O1COC2=C1C=CC(=C2)B(O)O | C7H7BO4
reactant | sodium carbonate | 11.35 mmol, 1.2 g, 3 equivalents | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-6-methoxy-7-nitro-1,3-benzothiazole | 3.82 mmol, 1.1 g | BrC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC | C8H5BrN2O3S
solvent | water | 15 ml | O | H2O
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
product | 2-(1,3-benzodioxol-5-yl)-6-methoxy-7-nitro-1,3-benzothiazole | 0.960 g, yield of 76% | O1COC2=C1C=CC(=C2)C=2SC1=C(N2)C=CC(=C1[N+](=O)[O-])OC | C15H10N2O5S
